US08293911B2
Step B: N-(4-(3,4-dihydroisoquinolin-2(1H)-yl)-2,6-dimethylphenyl)-3,3-dimethylbutanamide
Bis(dibenzylidineacetone)palladium (2 mg, 0.0035 mmol) and (2′-dicyclohexyl phosphanyl-biphenyl-2-yl)-dimethylamine (3.3 mg, 0.0084 mmol) were added to dry toluene (10 mL purged with argon) and stirred for 15 minutes under argon. Potassium tert-butoxide (150 mg, 1.34 mmol), 1,2,3,4-tetrahydroisoquinoline (107 mg, 0.8 mmol) and N-(4-bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butanamide (200 mg, 0.67 mmol) were then added, and the reaction mixture was stirred at 90° C. overnight. The reaction mixture was then cooled to room temperature, concentrated, and purified by thin layer chromatography (dichloromethane:methanol 5%) to afford the title compound as a solid. (113.20 mg, 50%).

reactant | Potassium tert-butoxide | 1.34 mmol, 150 mg | CC(C)([O-])C.[K+]
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.8 mmol, 107 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | N-(4-bromo-2,6-dimethyl-phenyl)-3,3-dimethyl-butanamide | 0.67 mmol, 200 mg | BrC1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C14H20BrNO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-(3,4-dihydroisoquinolin-2(1H)-yl)-2,6-dimethylphenyl)-3,3-dimethylbutanamide | C1N(CCC2=CC=CC=C12)C1=CC(=C(C(=C1)C)NC(CC(C)(C)C)=O)C | C23H30N2O
